US06329389B1
3-Methoxycarbonylpropionyl chloride (4.5 g) was added dropwise to a mixed solution of N-hydroxy-2-(4-methoxyphenyl)ethaneimidamide (3 g) in acetonitrile (20 ml) and pyridine (5 ml) under ice-cooling. The reaction mixture was stirred at room temperature for 3 hours, which was diluted with ethyl acetate. The reaction mixture was washed twice with 2N hydrochloric acid and water, then dried and concentrated. The obtained residue was dissolved in pyridine (20 ml) and stirred under heating at 100° C. for 18 hours. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=1/1) to obtain methyl 3-[3-(4-methoxyphenyl)methyl-1,2,4-oxadiazol-5-yl]propionate (2.5 g).

reactant | 3-Methoxycarbonylpropionyl chloride | 4.5 g | COC(=O)CCC(=O)Cl | C5H7ClO3
reactant | N-hydroxy-2-(4-methoxyphenyl)ethaneimidamide | 3 g | ONC(CC1=CC=C(C=C1)OC)=N | C9H12N2O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[3-(4-methoxyphenyl)methyl-1,2,4-oxadiazol-5-yl]propionate | 2.5 g | COC1=CC=C(C=C1)CC1=NOC(=N1)CCC(=O)OC | C14H16N2O4
